US06057337
N-[3-(Dimethylamino)propyl]-[2-(1-octadecyl-2-piperidyl)ethoxy]formamide dihydrochloride (Compound 15)
4N Hydrochloric acid/ethyl acetate solution (0.21 ml) was added to a solution of N-[3-(dimethylamino)propyl]-[2-(1-octadecyl-2-piperidyl)ethoxy]formamide (0.200 g) in ethyl acetate (4 ml) under argon gas atmosphere, while being cooled with ice. After being stirred for 15 minutes, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethyl acetate-hexane, thereby yielding the entitled compound (0.199 g) as white crystals.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.21 ml | Cl.C(C)(=O)OCC
reactant | N-[3-(dimethylamino)propyl]-[2-(1-octadecyl-2-piperidyl)ethoxy]formamide | 0.200 g | CN(CCCN(C=O)OCCC1N(CCCC1)CCCCCCCCCCCCCCCCCC)C | C31H63N3O2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(Dimethylamino)propyl]-[2-(1-octadecyl-2-piperidyl)ethoxy]formamide dihydrochloride | 0.199 g | Cl.Cl.CN(CCCN(C=O)OCCC1N(CCCC1)CCCCCCCCCCCCCCCCCC)C | InChI=1S/C31H63N3O2.2ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-20-26-33-27-21-19-23-31(33)24-29-36-34(30-35)28-22-25-32(2)3;;/h30-31H,4-29H2,1-3H3;2*1H
